US07012066B2
To a solution of tert-butyl N-tert-butoxycarbonyl-4-methyl-L-pyroglutamate (1.2 g, 4.0 mmol) in tetrahydrofuran (20 mL) stirring at −78° C., was added a 1M solution of lithium hexamethyldisilazide in tetrahydrofuran (4.4 mL, 4.4 mmol) dropwise over 5 minutes. After 30 minutes, methyliodide (0.33 mL, 5.2 mmol) was added. After an additional 3 hours at −78° C., the cooling bath was removed and 50% saturated aqueous ammonium chloride (40 mL) was added. The solution was stirred for 20 minutes, then extracted with ether (2×50 mL). The combined organic layers were washed with water(2×25 mL), saturated sodium bicarbonate (2×25 mL), brine (50 mL), dried (Na2SO4), filtered and concentrated to give Boc-PyroGlu(4,4-dimethyl)-OtBu (0.673 g, 54%). Step 3. Synthesis of tert-butyl N-tert-butoxycarbonyl-4,4-dimethylproline (Boc-Pro(4,4-dimethyl)-OtBu)

reactant | tert-butyl N-tert-butoxycarbonyl-4-methyl-L-pyroglutamate | 4.0 mmol, 1.2 g | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1=O)C)C(=O)OC(C)(C)C | C15H25NO5
reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | methyliodide | 5.2 mmol, 0.33 mL | CI | CH3I
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.4 mmol, 4.4 mL | O1CCCC1 | C4H8O
product | Tert-butyl N-tert-butoxycarbonyl-4,4-dimethyl-L-pyroglutamate | 0.673 g, 54% | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1=O)(C)C)C(=O)OC(C)(C)C | C16H27NO5
